US07692005B2
2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (1.2 g, 3.205 mmol) and ethyl formate (0.800 mL, 9.903 mmol) were dissolved in anhydrous ethanol (10 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (3.6 mL, 9.643 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide (0.887 g, 2.204 mmol, 69%).

reactant | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 3.205 mmol, 1.2 g | O=C1NC2=CC(=CC=C2C1)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C | C21H18N4O3
reactant | ethyl formate | 9.903 mmol, 0.800 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 9.643 mmol, 3.6 mL | C(C)O | C2H6O
product | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid [3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-amide | 2.204 mmol, 0.887 g, 69% | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C)=O | C22H18N4O4
